US04876384
Mono-methoxy diethylene glycol monacrylate
682 grams Methyl Carbitol (diethylene glycol monomethyl ether, Union Carbide) were azeotropically esterified with 598.9 grams acrylic acid in 272 grams toluene in the presence of 22.8 grams p-toluenesulfonic acid and inhibitors until no more water was collected. Conditions were 95°-98° C., nitrogen sparge in vacuo. On completion, the product was washed and neutralized with sodium carbonate. 1,300 ppm p-methoxyphenol were added and solvent removed at 80° C. at maximum vacuum with an air sparge. Filter aid was added and the product filtered to clarity at 50° C. The final product was a clear, light yellow liquid, viscosity 6 cps with a Gardner 1 color.

reactant | Methyl Carbitol | 682 grams | COCCOCCO | C5H12O3
reactant | acrylic acid | 598.9 grams | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 22.8 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 272 grams | C1(=CC=CC=C1)C | C7H8
product | Mono-methoxy diethylene glycol | COC(COCCO)O | C5H12O4
